US05057614
1 g of 1-(benzenesulphonyl)-3-pyrrolylacetic acid in 25 ml of dichloromethane was treated at 0° C. with a solution of 837 mg of 1-methylindole-3-glyoxylyl chloride in 25 ml of dichloromethane and then with 975 mg of diisopropylethylamine. The mixture was allowed to warm to room temperature and was then stirred for 22 hours. After concentration and chromatography of the residue on silica gel with ethyl acetate/hexane (1:1) there were obtained 540 mg of 3-[1-(benzenesulphonyl)-3-pyrrolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione.

reactant | 1-(benzenesulphonyl)-3-pyrrolylacetic acid | 1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)CC(=O)O | C12H11NO4S
reactant | diisopropylethylamine | 975 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-[1-(benzenesulphonyl)-3-pyrrolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 540 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C23H16N2O5S
